US06437147B1
At 0° C., a solution of 2,3-dihydrobenzofuran-7-carboxylic acid amide (5.2 g, 31 mmol) in THF (100 ml) was added drop wise to a suspension of sodium borohydride in THF. The mixture was stirred for 20 min at 0° C. A solution of iodine (4.1 g, 16 mmol) in THF (100 ml) was added drop wise. After the addition was finished, the reaction mixture was heated for 16 hours to reflux. It was cooled to room temperature. Methanol (260 ml) was added drop wise. The solvent was removed in vacuo. The residue was dissolved in a 20% aqueous solution of sodium hydroxide (200 ml) and tert-butyl methyl ether (200 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×100 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (90 g), using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent to give 0.93 g of ((2,3-dihydrobenzofuran-7-yl)methyl)amine

reactant | 2,3-dihydrobenzofuran-7-carboxylic acid amide | 31 mmol, 5.2 g | O1CCC2=C1C(=CC=C2)C(=O)N | C9H9NO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | iodine | 16 mmol, 4.1 g | II | I2
reactant | Methanol | 260 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ((2,3-dihydrobenzofuran-7-yl)methyl)amine | 0.93 g | O1CCC2=C1C(=CC=C2)CN | C9H11NO
